US09428502B2
Compound 282.1. N,N,2-Trimethyl-1H-imidazole-1-sulfonamide
To a solution of 2-methyl-1H-imidazole (10 g, 121.8 mmol) in dichloromethane (100 mL) was added N,N-dimethylsulfamoyl chloride (14.4 mL, 133.7 mmol) and triethylamine (34 mL, 244.1 mmol). The reaction mixture was stirred overnight at room temperature, then quenched with 10 mL of water and extracted with 1×50 mL of DCM. The organic layer was washed with 2×20 mL of brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography with ethyl acetate/petroleum ether (1:2) as the eluent to furnish 20 g (87%) of the title compound as a yellow oil.

reactant | 2-methyl-1H-imidazole | 121.8 mmol, 10 g | CC=1NC=CN1 | C4H6N2
reactant | N,N-dimethylsulfamoyl chloride | 133.7 mmol, 14.4 mL | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | triethylamine | 244.1 mmol, 34 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N,N,2-Trimethyl-1H-imidazole-1-sulfonamide | 20 g, 87% | CN(S(=O)(=O)N1C(=NC=C1)C)C | C6H11N3O2S
